US07612211B2
A. 1-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-ethanone
A mixture of 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole (0.450 g, 1.21 mmol), 2-acetylphenylboronic acid (0.298 g, 1.82 mmol), sodium carbonate (0.771 g, 7.26 mmol), and 1,1′-[bis(di-tert-butylphosphino)ferrocene]-palladium dichloride (0.079 g, 0.121 mmol) in DME (10 mL) and H2O (2.5 mL) was heated at 90° C. for 12 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by chromatography (silica, hexanes: EtOAc, 1:1) to afford the product as a yellow oil (0.433 g, 87%).

reactant | 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole | 1.21 mmol, 0.450 g | BrC1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C15H10BrF3N2O
reactant | 2-acetylphenylboronic acid | 1.82 mmol, 0.298 g | C(C)(=O)C1=C(C=CC=C1)B(O)O | C8H9BO3
reactant | sodium carbonate | 7.26 mmol, 0.771 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | H2O | 2.5 mL | O | H2O
product | 1-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-ethanone | 0.433 g, 87% | FC(C1=CC=C(OCC2=NC3=C(N2)C=CC(=C3)C3=C(C=CC=C3)C(C)=O)C=C1)(F)F | C23H17F3N2O2
